US08314119B2
(4r)-4-N-(6-Chloropyridin-3-yl)-1-azatricyclo[3.3.1.13,7]decan-4-amine
A solution of 1-azatricyclo[3.3.1.13,7]decan-4-one (1.51 g, 10 mmol; see Becker, D. P.; Flynn, D. L. Synthesis 1992, 1080) in HOAc (50 mL) was treated with 3-amino-6-chloropyridine (1.90 g, 15 mmol; Aldrich), anhydrous Na2SO4 (18.5 g, 0.13 mol; Aldrich), and NaBH(OAc)3 (4.22 g, 20 mmol; Aldrich) and was stirred at ambient temperature for 10 hours. After the reaction was complete, the solid was filtered off, and the filtrate was concentrated. The residue was carefully basified with saturated aqueous Na2CO3 (pH 10), extracted with CHCl3 (3×100 mL), and the combined extracts were purified by flash chromatography [silica gel, ammonium hydroxide-methanol-chloroform (2:10:90)] to afford the title compounds:

reactant | 1-azatricyclo[3.3.1.13,7]decan-4-one | 10 mmol, 1.51 g | N12CC3C(C(CC(C1)C3)C2)=O | C9H13NO
reactant | 3-amino-6-chloropyridine | 15 mmol, 1.90 g | NC=1C=NC(=CC1)Cl | C5H5ClN2
reactant | Na2SO4 | 0.13 mol, 18.5 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaBH(OAc)3 | 20 mmol, 4.22 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
product | (4r)-4-N-(6-Chloropyridin-3-yl)-1-azatricyclo[3.3.1.13,7]decan-4-amine | ClC1=CC=C(C=N1)N[C@@H]1C2CN3CC(CC1C3)C2 | C14H18ClN3
